### PR TITLE
feat: add leading zero counter `BitVec.clz` and bitblaster circuit/infrastructure 

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds a new `BitVec.clz` operation and a corresponding `clz` circuit to `bv_decide`, allowing to bitblast the count leading zeroes operation. The AIG circuit is linear in the number of bits of the original expression, making the bitblasting convenient wrt. rewriting. `clz` is common in numerous compiler intrinsics (see [here](https://clang.llvm.org/docs/LanguageExtensions.html#intrinsics-support-within-constant-expressions)) and architectures (see [here](https://en.wikipedia.org/wiki/Find_first_set)).

Co-authored by @bollu.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -5572,6 +5572,387 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
+theorem clzAuz_eq_zero_iff {x : BitVec w} {n : Nat}:
+    clzAux x n = 0 ↔ x.getLsbD n = true := by
+  unfold clzAux
+  cases n <;> simp
+
+theorem clzAux_le {x : BitVec w} {n : Nat} :
+    clzAux x n ≤ n + 1 := by
+  induction n
+  · case zero =>
+    simp [clzAux]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:5589]: Non-terminal simp.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -5572,6 +5572,387 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
+    · simp [hn1]; omega
+
+theorem clzAux_eq_iff {x : BitVec w} {n : Nat} :
+    clzAux x n = (n + 1) ↔ (∀ i, i < n + 1 → x.getLsbD i = false) := by
+  induction n
+  · case zero => simp [clzAux]
+  · case succ n ihn =>
+    unfold clzAux
+    by_cases hn1 : x.getLsbD (n + 1)
+    · simp [hn1]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:5605]: Non-terminal simp.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -5572,6 +5572,387 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
+      exists n + 1, by omega
+    · simp [hn1]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:5607]: Non-terminal simp.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -5572,6 +5572,387 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
+
+@[simp]
+theorem clzAux_zero {x : BitVec w} : clzAux x 0 = if x.getLsbD 0 then 0 else 1 := by simp [clzAux]
+
+theorem clzAuz_eq_zero_iff {x : BitVec w} {n : Nat}:
+    clzAux x n = 0 ↔ x.getLsbD n = true := by
+  unfold clzAux
+  cases n <;> simp
+
+theorem clzAux_le {x : BitVec w} {n : Nat} :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:5585]: Given that this is not an equality, should we make `x` and `n` non-optional arguments?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -5572,6 +5572,387 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
+      exists n + 1, by omega
+    · simp [hn1]
+      have h1 := clzAux_le (x := x) (n := n)
+      have h2 := clzAux_le (x := x) (n := n + 1)
+      have h3 : 1 + x.clzAux n = n + 1 + 1 ↔ x.clzAux n = n + 1 := by omega
+      simp [h3]
+      simp [ihn]
+      constructor
+      · intro h
+        intros i hin
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:5615]: Two `intro` in a row?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -5572,6 +5572,387 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
+        by_cases hi : i ≤ n
+        · apply h
+          omega
+        · simp at hn1
+          simp [show i = n + 1 by omega, hn1]
+      · intro h
+        intros i hin
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:5622]: Two intros in a row.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 1 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: closing bc outdated

File: src/Init/Data/BitVec/Lemmas.lean (hunk 3 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: closing bc outdated

File: src/Init/Data/BitVec/Lemmas.lean (hunk 4 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: closing bc outdated

File: src/Init/Data/BitVec/Lemmas.lean [hunk 7]
```diff
@@ -5572,6 +5572,387 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
+    unfold clzAux
+    by_cases hn1 : x.getLsbD (n + 1)
+    · simp [hn1]
+      exists n + 1, by omega
+    · simp [hn1]
+      have h1 := clzAux_le (x := x) (n := n)
+      have h2 := clzAux_le (x := x) (n := n + 1)
+      have h3 : 1 + x.clzAux n = n + 1 + 1 ↔ x.clzAux n = n + 1 := by omega
+      simp [h3]
+      simp [ihn]
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: closing bc outdated

File: src/Init/Data/BitVec/Lemmas.lean [hunk 8]
```diff
@@ -5572,6 +5572,387 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
+      constructor
+      · intro h
+        intros i hin
+        by_cases hi : i ≤ n
+        · apply h
+          omega
+        · simp at hn1
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: closing bc outdated

File: src/Init/Data/BitVec/Lemmas.lean [hunk 9]
```diff
@@ -5572,6 +5572,387 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
+        obtain ⟨j, h2, h3⟩ := h
+        exists j
+        by_cases hjn : j = n + 1
+        · simp_all
+        · simp [show j ≤ n by omega]
+          exact h3
+
+
+
+theorem getLsbD_false_of_lt_clzAux {x : BitVec w} {n : Nat} (hw : 0 < w) (hi : i < clzAux x n):
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: closing bc outdated

File: src/Init/Data/BitVec/Lemmas.lean (hunk 2 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: closing bc outdated

File: src/Init/Data/BitVec/Lemmas.lean (hunk 5 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: closing bc outdated

File: src/Init/Data/BitVec/Lemmas.lean (hunk 6 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: closing bc outdated

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries CI can not be attempted yet, as the `nightly-testing-2025-06-12` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Batteries CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-12 17:07:15)
- ❗ Batteries CI can not be attempted yet, as the `nightly-testing-2025-06-13` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Batteries CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-13 09:58:42)
- ❗ Mathlib CI can not be attempted yet, as the `nightly-testing-2025-06-13` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Mathlib CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-13 19:32:46)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase b3a53d5d013d705acf1c664495e74bd7cee32460 --onto fdf6d2ea3bdbebb736aa5d05d00b27a5abaa8fb8`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-17 14:50:15)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase b3a53d5d013d705acf1c664495e74bd7cee32460 --onto 3b2990b3816b7e7ec289ad498496a61d18bd85f4`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-18 08:04:37)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase b3a53d5d013d705acf1c664495e74bd7cee32460 --onto e83b7681407043c75f5167c2e4da13e25078a0c0`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-18 11:13:40)

File: src/Init/Data/BitVec/Basic.lean [hunk 10]
```diff
@@ -842,4 +842,17 @@ treating `x` and `y` as 2's complement signed bitvectors.
 def smulOverflow {w : Nat} (x y : BitVec w) : Bool :=
   (x.toInt * y.toInt ≥ 2 ^ (w - 1)) || (x.toInt * y.toInt < - 2 ^ (w - 1))
 
+/--
+  Count the number of leading zeroes downward from the 'n'th bit to the '0'th bit.
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Basic.lean]:
```suggestion
  Count the number of leading zeroes downward from the n-th bit to the 0-th bit.
```

Not sure. I found the notation above a bit surprising. Maybe check what other parts of lean or mathlib do.

File: src/Init/Data/BitVec/Basic.lean [hunk 11]
```diff
@@ -842,4 +842,17 @@ treating `x` and `y` as 2's complement signed bitvectors.
...
+-/
+def clzAux {w : Nat} (x : BitVec w) (n : Nat) : Nat :=
+  match n with
+  | 0 => if x.getLsbD 0 then 0 else 1
+  | n' + 1 =>
+    if x.getLsbD n then 0
+      else 1 + clzAux x n'
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Basic.lean]: Not sure this needs so many linebreaks. Maybe just one line even?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 12]
```diff
@@ -1954,4 +1954,79 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+        apply h
+        omega
+      · simp only [clzAuxRec, hxn, false_eq_true, ↓reduceIte]
+        apply ihn
+        intro i hi
+        by_cases hi : n + 1 < i
+        · apply h; exact hi
+        · simp [show i = n + 1 by omega, hxn]
+
+theorem clz_eq_clzAuxRec_of_eq (x : BitVec w) (h : w - 1 ≤ n) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]: Why is this called `of_eq`?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 13]
```diff
@@ -1954,4 +1954,79 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+
+/--
+  Count the number of leading zeroes downward from the 'n'th bit to the '0'th bit for the bitblaster.
+-/
+def clzAuxRec {w : Nat} (x : BitVec w) (n : Nat) : BitVec w :=
+  match n with
+  | 0 => if x.getLsbD 0 then BitVec.ofNat w (w - 1) else BitVec.ofNat w w
+  | n' + 1 => if x.getLsbD n then BitVec.ofNat w (w - 1 - n) else clzAuxRec x n'
+
+theorem clz_eq_clzAuxRec_of_false (x : BitVec w) (h : ∀ i, n < i → x.getLsbD i = false) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]: maybe ...`of_getLsbD_eq_false`?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 14]
```diff
@@ -5628,6 +5628,91 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
   simp only [BitVec.msb, getMsbD_replicate, Nat.zero_mod]
   cases n <;> cases w <;> simp
 
+/-! ### Leading zeroes -/
+
+theorem clzAux_eq_zero_iff {x : BitVec w} {n : Nat}:
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem clzAux_eq_zero_iff {x : BitVec w} {n : Nat} :
```

File: src/Init/Data/BitVec/Bitblast.lean (hunk 12 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: updated, there were two basically equivalent theorems, now it's only one

File: src/Init/Data/BitVec/Basic.lean (hunk 10 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Basic.lean]: You can also use `zeros` which is more widely used in US english.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 14 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Bitblast.lean (hunk 13 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: updated to clz_eq_clzAuxRec_of_forall_getLsbD_false

File: src/Init/Data/BitVec/Basic.lean (hunk 11 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Basic.lean]: done

File: src/Init/Data/BitVec/Basic.lean (hunk 10 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Basic.lean]: corrected, seems looking around that the correct notation is `n`-th

File: src/Init/Data/BitVec/Lemmas.lean [hunk 15]
```diff
@@ -5628,6 +5628,91 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
   simp only [BitVec.msb, getMsbD_replicate, Nat.zero_mod]
   cases n <;> cases w <;> simp
 
+/-! ### Leading zeroes -/
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
/-! ### Count leading zeroes -/
```

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Bitblast.lean [hunk 16]
```diff
@@ -1954,4 +1954,79 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
     (y <<< x) + x =  (y <<< x) ||| x := by
   rw [BitVec.add_comm, add_shiftLeft_eq_or_shiftLeft, or_comm]
 
+/-! ### Leading Zeros -/
+
+/--
+  Count the number of leading zeroes downward from the 'n'th bit to the '0'th bit for the bitblaster.
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
  Count the number of leading zeroes downward from the `n`-th bit to the `0`-th bit for the bitblaster.
```

File: src/Init/Data/BitVec/Basic.lean [hunk 17]
```diff
@@ -842,4 +842,15 @@ treating `x` and `y` as 2's complement signed bitvectors.
 def smulOverflow {w : Nat} (x y : BitVec w) : Bool :=
   (x.toInt * y.toInt ≥ 2 ^ (w - 1)) || (x.toInt * y.toInt < - 2 ^ (w - 1))
 
+/--
+  Count the number of leading zeroes downward from the `n`-th bit to the `0`-th bit.
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Basic.lean]:
```suggestion
  Count the number of leading zeros downward from the `n`-th bit to the `0`-th bit.
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 18]
```diff
@@ -1954,4 +1954,79 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
     (y <<< x) + x =  (y <<< x) ||| x := by
   rw [BitVec.add_comm, add_shiftLeft_eq_or_shiftLeft, or_comm]
 
+/-! ### Leading Zeros -/
+
+/--
+  Count the number of leading zeroes downward from the `n`-th bit to the `0`-th bit for the bitblaster.
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
  Count the number of leading zeros downward from the `n`-th bit to the `0`-th bit for the bitblaster.
```

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean [hunk 19]
```diff
@@ -0,0 +1,137 @@
...
+            · next hx' =>
+              simp only [Nat.add_eq_zero, Nat.succ_ne_self, and_false, ↓reduceIte,
+                Nat.add_one_sub_one] at hacc
+              simp [hacc, BitVec.clzAuxRec, show x.getLsbD (curr + 1) = false by rw [hx] at hx'; simp at hx'; exact hx']
+    · case isFalse h =>
+      rw [← hgo]
+      simp only [show ¬curr = 0 by omega, ↓reduceIte] at hacc
+      by_cases hcw : curr = w
+      · subst hcw; simp [hacc]
+      · simp only [hacc]; rw [BitVec.clzAuxRec_eq_of_le]; omega
```
Comment (tobiasgrosser) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean]:
```suggestion
      · simp only [hacc];
        rw [BitVec.clzAuxRec_eq_of_le]
        omega
```

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean [hunk 20]
```diff
@@ -0,0 +1,137 @@
...
+                  rw [Nat.add_comm,
+                    show 2 ^ (1 + w) + w + (2 ^ (1 + w) - (curr + 1)) = 2 ^ (1 + w) + (2 ^ (1 + w) + (w - (curr + 1))) by omega,
+                    Nat.add_mod_left, Nat.add_mod_left]
+            · next hx' =>
+              simp only [Nat.add_eq_zero, Nat.succ_ne_self, and_false, ↓reduceIte,
+                Nat.add_one_sub_one] at hacc
+              simp [hacc, BitVec.clzAuxRec, show x.getLsbD (curr + 1) = false by rw [hx] at hx'; simp at hx'; exact hx']
+    · case isFalse h =>
+      rw [← hgo]
+      simp only [show ¬curr = 0 by omega, ↓reduceIte] at hacc
```
Comment (tobiasgrosser) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean]:
```suggestion
      simp only [show ¬curr = 0 by omega, reduceIte] at hacc
```

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean [hunk 21]
```diff
@@ -0,0 +1,137 @@
...
+        · intro idx hidx
+          simp only [Nat.add_eq_zero, Nat.succ_ne_self, and_false, ↓reduceIte, RefVec.get_cast,
+            Ref.cast_eq, Nat.add_one_sub_one]
+          rw [RefVec.denote_ite]
+          rcases curr
+          · case zero =>
+            split
+            · next hx' =>
+              simp only [BitVec.sub_zero, denote_blastConst, BitVec.clzAuxRec,
+                show x.getLsbD 0 = true by rw [hx] at hx'; exact hx', ↓reduceIte]
```
Comment (tobiasgrosser) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean]:
```suggestion
                show x.getLsbD 0 = true by rw [hx] at hx'; exact hx', reduceIte]
```

**Comment by tobiasgrosser** [comment]
https://en.wikipedia.org/wiki/Find_first_set states:

> Many architectures include [instructions](https://en.wikipedia.org/wiki/Instruction_set) to rapidly perform find first set and/or related operations, listed below. The most common operation is count leading zeros (clz), likely because all other operations can be implemented efficiently in terms of it.

You may want to use this as a justification in the commit message of why you implement `clz`.

See also https://clang.llvm.org/docs/LanguageExtensions.html#intrinsics-support-within-constant-expressions.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 18 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: accepted

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean (hunk 19 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean]: accepted

File: src/Init/Data/BitVec/Basic.lean (hunk 17 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Basic.lean]: accepted

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean (hunk 20 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean]: accepted

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean (hunk 21 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean]: accepted

File: src/Init/Data/BitVec/Basic.lean [hunk 22]
```diff
@@ -842,4 +842,15 @@ treating `x` and `y` as 2's complement signed bitvectors.
 def smulOverflow {w : Nat} (x y : BitVec w) : Bool :=
   (x.toInt * y.toInt ≥ 2 ^ (w - 1)) || (x.toInt * y.toInt < - 2 ^ (w - 1))
 
+/--
+  Count the number of leading zeros downward from the `n`-th bit to the `0`-th bit.
+-/
```
Comment (bollu) [inline src/Init/Data/BitVec/Basic.lean]:
```suggestion
/-- Count the number of leading zeros downward from the `n`-th bit to the `0`-th bit. -/
```

I guess we want to reformat all docstrings as such?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 23]
```diff
@@ -1954,4 +1954,79 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
     (y <<< x) + x =  (y <<< x) ||| x := by
   rw [BitVec.add_comm, add_shiftLeft_eq_or_shiftLeft, or_comm]
 
+/-! ### Leading Zeros -/
+
+/--
+  Count the number of leading zeros downward from the `n`-th bit to the `0`-th bit for the bitblaster.
+-/
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
/-- Count the number of leading zeros downward from the `n`-th bit to the `0`-th bit for the bitblaster.
This builds a tree of `if-then-else` lookups whose length is linear in the bitwidth,
and an efficient circuit for bitblasting `clz`. -/
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 24]
```diff
@@ -1954,4 +1954,79 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+def clzAuxRec {w : Nat} (x : BitVec w) (n : Nat) : BitVec w :=
+  match n with
+  | 0 => if x.getLsbD 0 then BitVec.ofNat w (w - 1) else BitVec.ofNat w w
+  | n' + 1 => if x.getLsbD n then BitVec.ofNat w (w - 1 - n) else clzAuxRec x n'
+
+theorem clz_eq_clzAuxRec_of_forall_getLsbD_false (x : BitVec w) (h : ∀ i, n < i → x.getLsbD i = false) :
+    x.clz = x.clzAuxRec n := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
/--
If `x : BitVec w` has all bits larger than index `n` equal to `false`,
then `clzAuxRec` starting from `n` will compute the `clz`. 
-/
theorem clz_eq_clzAuxRec_of_forall_getLsbD_false (x : BitVec w) (h : ∀ i, n < i → x.getLsbD i = false) :
    x.clz = x.clzAuxRec n := by
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 25]
```diff
@@ -1954,4 +1954,79 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+        apply h
+        omega
+      · simp only [clzAuxRec, hxn, false_eq_true, ↓reduceIte]
+        apply ihn
+        intro i hi
+        by_cases hi : n + 1 < i
+        · apply h; exact hi
+        · simp [show i = n + 1 by omega, hxn]
+
+theorem clz_eq_clzAuxRec_of_le (x : BitVec w) (h : w - 1 ≤ n) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
/--
`clzAuxRec` agrees with `clz` when `clzAuxRec` is started from an index `n` that is at least `w - 1`. 
-/
theorem clz_eq_clzAuxRec_of_le (x : BitVec w) (h : w - 1 ≤ n) :
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 26]
```diff
@@ -1954,4 +1954,79 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+    x.clz = x.clzAuxRec n := by
+  rw [clz_eq_clzAuxRec_of_forall_getLsbD_false]
+  intro i hi
+  simp [show w ≤ i by omega]
+
+theorem clzAuxRec_eq_of_le (x : BitVec w) (hn : w ≤ n) :
+    x.clzAuxRec n = x.clzAuxRec (w - 1) := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
theorem clzAuxRec_eq_of_le (x : BitVec w) (hn : w ≤ n) :
    x.clzAuxRec n = x.clzAuxRec (w - 1) := by
```

While I see the value of this, do we ever actually call `clzAuxRec` with any input larger than `w`? If not, I'm not sure we need this, and IMO the simpler theorem that 

```lean
theorem clz_eq_clzAuxRec (x : BitVec w) : x.clz = x.clzAuxRec (w - 1)
```

should suffice for our bitblasting nees?

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean [hunk 27]
```diff
@@ -0,0 +1,139 @@
...
+open Std.Sat.AIG
+
+variable [Hashable α] [DecidableEq α]
+
+namespace BVExpr
+
+namespace bitblast
+namespace blastClz
+
+theorem go_denote_eq {w : Nat} (aig : AIG α)
```
Comment (bollu) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean:33]: I would personally write a comment indicating the intuition for the hypothesis on `acc` as a kindness to a future contributor to the bitblaster :)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 28]
```diff
@@ -5628,6 +5628,91 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
   simp only [BitVec.msb, getMsbD_replicate, Nat.zero_mod]
   cases n <;> cases w <;> simp
 
+/-! ### Count leading zeroes -/
+
+theorem clzAux_eq_zero_iff {x : BitVec w} {n : Nat} :
+    clzAux x n = 0 ↔ x.getLsbD n = true := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]: In the next PR, can we write down what these imply for `clz`? It seems useful to build up the basic theory of `clz` in the next PR, since it's an operation we are adding to the BV library.

File: src/Init/Data/BitVec/Basic.lean (hunk 22 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Basic.lean]: committed

File: src/Init/Data/BitVec/Bitblast.lean (hunk 23 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: committed

File: src/Init/Data/BitVec/Bitblast.lean (hunk 26 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: It would indeed be enough - I see your objection and am still slightly in favour of the more general version, but let's see what other people think?

File: src/Init/Data/BitVec/Lemmas.lean (hunk 28 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: yes, happy to do this in a subsequent PR (once I also upstream all the infra I wrote for `clz`)

File: src/Init/Data/BitVec/Bitblast.lean (hunk 26 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: actually, @bollu, I changed my strategy here and reused `clzAuxRec_eq_of_le` twice (needing `hn` to be $\leq$), and instead deleted `clzAuxRec_eq_clzAuxRec_of_le`. Let me know what you think.

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean (hunk 27 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean:33]: done

File: src/Init/Data/BitVec/Bitblast.lean [hunk 29]
```diff
@@ -1954,4 +1954,78 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
     (y <<< x) + x =  (y <<< x) ||| x := by
   rw [BitVec.add_comm, add_shiftLeft_eq_or_shiftLeft, or_comm]
 
+/-! ### Leading Zeros -/
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
/-! ### Count Leading Zeros -/
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 30]
```diff
@@ -1954,4 +1954,78 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+theorem clz_eq_clzAuxRec_of_forall_getLsbD_false (x : BitVec w) (h : ∀ i, n < i → x.getLsbD i = false) :
+    x.clz = x.clzAuxRec n := by
+  have := Nat.lt_pow_self (a := 2) (n := w) (by omega)
+  rcases w with _|w
+  · simp [of_length_zero]
+  · have hle := clzAux_le (x := x) (n := w)
+    have heq := clzAux_eq_iff (x := x) (n := w)
+    induction n
+    · case zero =>
+      simp only [clzAuxRec, zero_lt_succ, getLsbD_eq_getElem, Nat.add_one_sub_one]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
      simp only [clzAuxRec, zero_lt_succ, getLsbD_eq_getElem]
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 31]
```diff
@@ -1954,4 +1954,78 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+      by_cases hx0 : x[0]
+      · simp only [clz, Nat.add_eq_zero, succ_ne_self, _root_.and_false, ↓reduceIte,
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
      · simp only [clz, Nat.add_eq_zero, succ_ne_self, _root_.and_false, reduceIte,
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 32]
```diff
@@ -1954,4 +1954,78 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+          Nat.add_one_sub_one, hx0, toNat_eq, toNat_ofNat]
+        rw [Nat.mod_eq_of_lt (by omega), Nat.mod_eq_of_lt (by omega)]
+        simp only [show ¬∀ i, i < w + 1 → x.getLsbD i = false by simp; exists 0; simp [hx0],
+          iff_false] at heq
+        rw [clzAux_eq_iff_forall_of_clzAux_lt (by omega)]
+        simp only [Nat.sub_self, zero_lt_succ, getLsbD_eq_getElem, hx0, _root_.and_true]
+        intro i hi
+        apply h
+        omega
+      · simp only [clz, Nat.add_eq_zero, succ_ne_self, _root_.and_false, ↓reduceIte,
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
      · simp only [clz, Nat.add_eq_zero, succ_ne_self, _root_.and_false, reduceIte,
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 33]
```diff
@@ -1954,4 +1954,78 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+        by_cases hi' : 0 < i
+        · apply h; exact hi'
+        · simp [show i = 0 by omega, hx0]
+    · case succ n ihn =>
+      by_cases hxn : x.getLsbD (n + 1)
+      · have : n + 1 < w + 1 := by
+          apply Classical.byContradiction
+          intro hcontra
+          simp only [show w + 1 ≤ n + 1 by omega, getLsbD_of_ge, false_eq_true] at hxn
+        simp only [clz, clzAuxRec, Nat.add_eq_zero, succ_ne_self, _root_.and_false, ↓reduceIte,
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
        simp only [clz, clzAuxRec, Nat.add_eq_zero, succ_ne_self, _root_.and_false, reduceIte,
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 34]
```diff
@@ -1954,4 +1954,78 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+          Nat.add_one_sub_one, Nat.mod_eq_of_lt (by omega)]
+        simp only [iff_false, show ¬∀ i, i < w + 1 → x.getLsbD i = false by simp; exists n + 1] at heq
+        simp only [hxn, ↓reduceIte, toNat_eq, toNat_ofNat]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
        simp only [hxn, reduceIte, toNat_eq, toNat_ofNat]
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 35]
```diff
@@ -1954,4 +1954,78 @@ theorem shiftLeft_add_eq_shiftLeft_or {x y : BitVec w} :
...
+        rw [Nat.mod_eq_of_lt (by omega), Nat.mod_eq_of_lt (by omega),
+          clzAux_eq_iff_forall_of_clzAux_lt (by omega)]
+        simp only [show w - (w - (n + 1)) = n + 1 by omega, hxn, _root_.and_true]
+        intro i hi
+        apply h
+        omega
+      · simp only [clzAuxRec, hxn, false_eq_true, ↓reduceIte]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
      · simp only [clzAuxRec, hxn, false_eq_true, reduceIte]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 36]
```diff
@@ -5628,6 +5628,91 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
+theorem clzAux_eq_iff {x : BitVec w} {n : Nat} :
+    clzAux x n = (n + 1) ↔ (∀ i, i < n + 1 → x.getLsbD i = false) := by
+  induction n
+  · case zero => simp [clzAux]
+  · case succ n ihn =>
+    by_cases hxn : x.getLsbD (n + 1)
+    · simp only [clzAux, hxn, ↓reduceIte, Nat.right_eq_add, Nat.add_eq_zero, reduceCtorEq,
+        and_false, false_iff, Classical.not_forall, not_imp, Bool.not_eq_false]
+      exists n + 1, by omega
+    · simp only [clzAux, hxn, Bool.false_eq_true, ↓reduceIte,
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    · simp only [clzAux, hxn, reduceIte, Nat.right_eq_add, Nat.add_eq_zero, reduceCtorEq,
        and_false, false_iff, Classical.not_forall, not_imp, Bool.not_eq_false]
      exists n + 1, by omega
    · simp only [clzAux, hxn, Bool.false_eq_true, reduceIte,
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 37]
```diff
@@ -5628,6 +5628,91 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
+      by_cases hxn : x.getLsbD (n + 1)
+      · simp only [hxn, ↓reduceIte, Nat.right_eq_add, Nat.add_eq_zero, Nat.succ_ne_self, and_false,
+          Nat.reduceSubDiff, false_iff, _root_.not_and, Bool.not_eq_true]
+        intro hi
+        specialize hi 0 (by omega)
+        simp [hxn] at hi
+      · simp only [hxn, Bool.false_eq_true, ↓reduceIte] at hlt
+        simp only [show x.clzAux n < n + 1 by omega, forall_const] at ihn
+        simp only [hxn, Bool.false_eq_true, ↓reduceIte,
+          show 1 + x.clzAux n = k + 1 ↔ x.clzAux n = k by omega, Nat.reduceSubDiff, ihn,
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
      · simp only [clzAux_zero, hx0, reduceIte, Nat.right_eq_add, Nat.add_eq_zero,
          Nat.succ_ne_self, and_false, Nat.zero_le, Nat.sub_eq_zero_of_le, Bool.true_eq_false,
          imp_false, Nat.not_lt, Nat.le_add_left, and_true, false_iff, Classical.not_forall,
          Nat.not_le]
        exists 0
        omega
      · simp [hx0] at hlt
  · case succ n ihn =>
    rcases k
    · case zero => simp [clzAux_eq_zero_iff]
    · case succ k =>
      simp only [clzAux, Nat.reduceSubDiff] at *
      by_cases hxn : x.getLsbD (n + 1)
      · simp only [hxn, reduceIte, Nat.right_eq_add, Nat.add_eq_zero, Nat.succ_ne_self, and_false,
          Nat.reduceSubDiff, false_iff, _root_.not_and, Bool.not_eq_true]
        intro hi
        specialize hi 0 (by omega)
        simp [hxn] at hi
      · simp only [hxn, Bool.false_eq_true, reduceIte] at hlt
        simp only [show x.clzAux n < n + 1 by omega, forall_const] at ihn
        simp only [hxn, Bool.false_eq_true, reduceIte,
          show 1 + x.clzAux n = k + 1 ↔ x.clzAux n = k by omega, Nat.reduceSubDiff, ihn,
```

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Can you go over the remaining files and see if there are more `\downarrow` to drop?

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean [hunk 38]
```diff
@@ -0,0 +1,140 @@
...
+          assign
+        ⟧
+          =
+        (BitVec.clzAuxRec x (w - 1)).getLsbD idx := by
+    intro idx hidx
+    generalize hgo: go aig xc curr acc = res
+    unfold go at hgo
+    split at hgo
+    · case isTrue h =>
+        simp at hgo
```
Comment (tobiasgrosser) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean]: Non-terminal simp

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean [hunk 39]
```diff
@@ -0,0 +1,140 @@
...
+          · case succ curr =>
+            split
+            · next hx' =>
+              simp only at hx'
+              simp only [denote_blastConst,BitVec.clzAuxRec,
+                show x.getLsbD (curr + 1) = true by rw [hx] at hx'; exact hx', ↓reduceIte]
+              congr
+              rcases w with _|w
+              · simp [BitVec.of_length_zero]
+              · simp [BitVec.ofNat_sub_ofNat, ← BitVec.toNat_eq]
```
Comment (tobiasgrosser) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean]: Non-terminal simp

File: src/Std/Tactic/BVDecide/Reflect.lean [hunk 40]
```diff
@@ -119,6 +119,10 @@ theorem reverse_congr (w : Nat) (x x' : BitVec w) (h : x = x') :
     BitVec.reverse x' = BitVec.reverse x := by
   simp[*]
 
+theorem clz_congr (w : Nat) (x x' : BitVec w) (h : x = x') :
+    BitVec.clz x' = BitVec.clz x := by
+  simp[*]
```
Comment (tobiasgrosser) [inline src/Std/Tactic/BVDecide/Reflect.lean]:
```suggestion
  simp [*]
```

Also, do we need the `*` here?

**Review by tobiasgrosser — APPROVED** [review]
This looks great to me. I have a couple of minor nit-picking comments, but am otherwise happy with this.

For the PR title/body:

- add a `.` at the end of your PR/commit message
- make sure `BitVec` is mentioned in the PR title
- the PR adds clz as a new operation to `BitVec/Basic.lean`. It would be good if this is mentioned and justified. E.g., "This PR adds a new operation `BitVec.clz` together with  bitlasting support via `bv_decide`. `Count leading zeros (clz) is ... We add a specialized bitblaster which requires only AIG nodes linear in the number of bits of the original bitvector expressions and consequently should be easier to bitblast than just a rewrite to existing bitvector expressions.

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean [hunk 41]
```diff
@@ -0,0 +1,140 @@
...
+                rw [Nat.mod_eq_of_lt (a := curr + 1) (by omega),
+                  show 2 ^ (w + 1) - 1 + (w + 1) = 2 ^ (w + 1) + w by omega, Nat.add_comm]
+                simp only [BitVec.toNat_eq, BitVec.toNat_ofNat]
+                by_cases hcw : curr + 1 = w
+                · simp only [hcw, Nat.sub_self, Nat.zero_mod] at *
+                  rw [Nat.add_comm,
+                    show 2 ^ (1 + w) + w + (2 ^ (1 + w) - w) = 2 ^ (1 + w) +((2 ^ (1 + w) - w) + w) by omega,
+                    Nat.sub_add_cancel (by rw [Nat.add_comm] at hlt'; omega),
+                    Nat.add_mod_right,  Nat.mod_self]
+                · have hlt'' : curr + 1 < 2 ^ (1 + w) := by rw [Nat.add_comm 1 w]; omega
```
Comment (bollu) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean]:
```suggestion
                · have : curr + 1 < 2 ^ (1 + w) := by rw [Nat.add_comm 1 w]; omega
```

I would prefer to leave these unnamed if possible, than try to invent names.`omega` should pick up on these extra facts, so we don't need to name them explicitly.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 29 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: done

File: src/Init/Data/BitVec/Bitblast.lean (hunk 30 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 36 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 37 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean (hunk 38 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean]: done

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean (hunk 39 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean]: fixed

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean (hunk 41 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean]: done

File: src/Std/Tactic/BVDecide/Reflect.lean (hunk 40 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Reflect.lean]: fixed the space, and we do need `*` yes, else the proof does not go through

File: src/Init/Data/BitVec/Bitblast.lean (hunk 32 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: done

File: src/Init/Data/BitVec/Bitblast.lean (hunk 33 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean [hunk 42]
```diff
@@ -5679,6 +5679,91 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
+    clzAux x n = 0 ↔ x.getLsbD n = true := by
+  cases n <;> simp [clzAux]
+
+theorem clzAux_eq_iff {x : BitVec w} {n : Nat} :
+    clzAux x n = (n + 1) ↔ (∀ i, i < n + 1 → x.getLsbD i = false) := by
+  induction n
+  · case zero => simp [clzAux]
+  · case succ n ihn =>
+    by_cases hxn : x.getLsbD (n + 1)
+    · simp only [clzAux, hxn, ↓reduceIte, Nat.right_eq_add, Nat.add_eq_zero, reduceCtorEq,
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    · simp only [clzAux, hxn, reduceIte, Nat.right_eq_add, Nat.add_eq_zero, reduceCtorEq,
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 43]
```diff
@@ -5679,6 +5679,91 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
+theorem clzAux_eq_iff {x : BitVec w} {n : Nat} :
+    clzAux x n = (n + 1) ↔ (∀ i, i < n + 1 → x.getLsbD i = false) := by
+  induction n
+  · case zero => simp [clzAux]
+  · case succ n ihn =>
+    by_cases hxn : x.getLsbD (n + 1)
+    · simp only [clzAux, hxn, reduceIte, Nat.right_eq_add, Nat.add_eq_zero, reduceCtorEq,
+        and_false, false_iff, Classical.not_forall, not_imp, Bool.not_eq_false]
+      exists n + 1, by omega
+    · simp only [clzAux, hxn, Bool.false_eq_true, ↓reduceIte,
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    · simp only [clzAux, hxn, Bool.false_eq_true, reduceIte,
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 44]
```diff
@@ -5679,6 +5679,91 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
+
+theorem clzAux_eq_iff_forall_of_clzAux_lt  {x : BitVec w} (hlt : (clzAux x n < n + 1)):
+    x.clzAux n = k ↔ ((∀ i, i < k → x.getLsbD (n - i) = false) ∧ ((x.getLsbD (n - k) = true))) := by
+  induction n generalizing k
+  · case zero =>
+    rcases k
+    · case zero => simp [clzAux_eq_zero_iff]
+    · case succ k =>
+      by_cases hx0 : x.getLsbD 0
+      · simp only [clzAux_zero, hx0, ↓reduceIte, Nat.right_eq_add, Nat.add_eq_zero,
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
      · simp only [clzAux_zero, hx0, reduceIte, Nat.right_eq_add, Nat.add_eq_zero,
```

File: src/Init/Data/BitVec/Bitblast.lean (hunk 31 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean [hunk 45]
```diff
@@ -5679,6 +5679,88 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
+        · apply hc; omega
+        · simp [show i = n + 1 by omega, hxn]
+      · intro hc i hin
+        apply hc
+        omega
+
+@[simp]
+theorem clzAux_zero {x : BitVec w} : clzAux x 0 = if x.getLsbD 0 then 0 else 1 := by simp [clzAux]
+
+theorem clzAux_eq_iff_forall_of_clzAux_lt  {x : BitVec w} (hlt : (clzAux x n < n + 1)):
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem clzAux_eq_iff_forall_of_clzAux_lt  {x : BitVec w} (hlt : clzAux x n < n + 1):
```

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean [hunk 46]
```diff
@@ -0,0 +1,121 @@
...
+prelude
+import Std.Tactic.BVDecide.Bitblast.BVExpr.Circuit.Lemmas.Basic
+import Std.Tactic.BVDecide.Bitblast.BVExpr.Circuit.Impl.Operations.Clz
+import Std.Tactic.BVDecide.Bitblast.BVExpr.Circuit.Lemmas.Const
+
+/-!
+This module contains the verification of the bitblaster for `BitVec.clz` from
+`Impl.Operations.Clz`. We prove that the accumulator of the `go` function
+at step`n` represents the portion of the `ite` nodes in the AIG constructed for
+bits `0` until `n`.
```
Comment (bollu) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean:15]:
```suggestion
This module contains the verification of the bitblaster for `BitVec.clz` from
`Impl.Operations.Clz`. We prove that the accumulator of the `go` function
at step `n` represents the portion of the `ite` nodes in the AIG constructed for
bits `0` until `n`. Thus, the circuit that is returned by `go` at iteration `w`
corresponds to the `clz` circuit for the full bitwidth.
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 45 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean (hunk 46 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean:15]: done

File: src/Init/Data/BitVec/Lemmas.lean [hunk 47]
```diff
@@ -5568,6 +5568,88 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem clzAux_eq_iff_forall_of_clzAux_lt  {x : BitVec w} (hlt : clzAux x n < n + 1):
```

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: committed

File: src/Init/Data/BitVec/Lemmas.lean [hunk 48]
```diff
@@ -5568,6 +5568,88 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
+        · simp [show i = n + 1 by omega, hxn]
+      · intro hc i hin
+        apply hc
+        omega
+
+@[simp]
+theorem clzAux_zero {x : BitVec w} : clzAux x 0 = if x.getLsbD 0 then 0 else 1 := by simp [clzAux]
+
+theorem clzAux_eq_iff_forall_of_clzAux_lt  {x : BitVec w} (hlt : clzAux x n < n + 1):
+    x.clzAux n = k ↔ ((∀ i, i < k → x.getLsbD (n - i) = false) ∧ ((x.getLsbD (n - k) = true))) := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]: Comment for theorem, please. It's not obvious to me why the `hlt` is the right one!

File: src/Init/Data/BitVec/Lemmas.lean [hunk 49]
```diff
@@ -5568,6 +5568,88 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
+  · case zero =>
+    cases hx0 : x.getLsbD 0
+    <;> simp [clzAux, hx0]
+  · case succ n ihn =>
+    by_cases hxn : x.getLsbD (n + 1)
+    · simp [clzAux, hxn]
+    · simp [clzAux, hxn]; omega
+
+theorem clzAux_eq_iff {x : BitVec w} {n : Nat} :
+    clzAux x n = (n + 1) ↔ (∀ i, i < n + 1 → x.getLsbD i = false) := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]: Comment for theorem please? :)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 50]
```diff
@@ -5568,6 +5568,88 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
   simp only [BitVec.msb, getMsbD_replicate, Nat.zero_mod]
   cases n <;> cases w <;> simp
 
+/-! ### Count leading zeroes -/
+
+theorem clzAux_eq_zero_iff {x : BitVec w} {n : Nat} :
+    clzAux x n = 0 ↔ x.getLsbD n = true := by
+  cases n <;> simp [clzAux]
+
+theorem clzAux_le {x : BitVec w} {n : Nat} :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]: Comment for theorem please? :)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 51]
```diff
@@ -5568,6 +5568,88 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
   simp only [BitVec.msb, getMsbD_replicate, Nat.zero_mod]
   cases n <;> cases w <;> simp
 
+/-! ### Count leading zeroes -/
+
+theorem clzAux_eq_zero_iff {x : BitVec w} {n : Nat} :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]: Comment for theorem please? :)

**Review by bollu — APPROVED** [review]
LGTM

File: src/Init/Data/BitVec/Lemmas.lean (hunk 51 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 50 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 49 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean [hunk 52]
```diff
@@ -5568,6 +5568,100 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
+        · apply hc; omega
+        · simp [show i = n + 1 by omega, hxn]
+      · intro hc i hin
+        apply hc
+        omega
+
+@[simp]
+theorem clzAux_zero {x : BitVec w} : clzAux x 0 = if x.getLsbD 0 then 0 else 1 := by simp [clzAux]
+
+<<<<<<< HEAD
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion

```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 53]
```diff
@@ -5568,6 +5568,99 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
+theorem clzAux_zero {x : BitVec w} : clzAux x 0 = if x.getLsbD 0 then 0 else 1 := by simp [clzAux]
+
+/-- If the number of leading zeroes is strictly smaller than the number of bits checked (i.e.,
+  not all bits are `false`), then there exists a `true` bit at a certain position `n - k` between
+  the `n`-th and the `0`-th bit, and all bits between `n` and that bit are `false` -/
+theorem clzAux_eq_iff_forall_of_clzAux_lt  {x : BitVec w} (hlt : (clzAux x n < n + 1)):
+    clzAux x n = k ↔ ((∀ i, i < k → x.getLsbD (n - i) = false) ∧ ((x.getLsbD (n - k) = true))) := by
+=======
+theorem clzAux_eq_iff_forall_of_clzAux_lt  {x : BitVec w} (hlt : clzAux x n < n + 1):
+    x.clzAux n = k ↔ ((∀ i, i < k → x.getLsbD (n - i) = false) ∧ ((x.getLsbD (n - k) = true))) := by
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion

```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 54]
```diff
@@ -5568,6 +5568,96 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
...
+
+@[simp]
+theorem clzAux_zero {x : BitVec w} : clzAux x 0 = if x.getLsbD 0 then 0 else 1 := by simp [clzAux]
+
+/-- If the number of leading zeroes is strictly smaller than the number of bits checked (i.e.,
+  not all bits are `false`), then there exists a `true` bit at a certain position `n - k` between
+  the `n`-th and the `0`-th bit, and all bits between `n` and that bit are `false` -/
+theorem clzAux_eq_iff_forall_of_clzAux_lt  {x : BitVec w} (hlt : (clzAux x n < n + 1)):
+    clzAux x n = k ↔ ((∀ i, i < k → x.getLsbD (n - i) = false) ∧ ((x.getLsbD (n - k) = true))) := by
+>>>>>>> 0743518018f9cbb69a953810b06ad9110363600c
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion

```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 48 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

**Comment by luisacicolini** [comment]
changelog-library

File: src/Init/Data/BitVec/Basic.lean [hunk 55]
```diff
@@ -850,4 +850,13 @@ treating `x` and `y` as 2's complement signed bitvectors.
 def smulOverflow {w : Nat} (x y : BitVec w) : Bool :=
   (x.toInt * y.toInt ≥ 2 ^ (w - 1)) || (x.toInt * y.toInt < - 2 ^ (w - 1))
 
+/-- Count the number of leading zeros downward from the `n`-th bit to the `0`-th bit. -/
+def clzAux {w : Nat} (x : BitVec w) (n : Nat) : Nat :=
+  match n with
+  | 0 => if x.getLsbD 0 then 0 else 1
+  | n' + 1 => if x.getLsbD n then 0 else 1 + clzAux x n'
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Basic.lean]: As this definition will potentially be executed it should be implemented in a tail recursive fashion.

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Clz.lean [hunk 56]
```diff
@@ -0,0 +1,87 @@
...
+  let wconst := blastConst aig w
+  go aig x 0 wconst
+where
+  go (aig : AIG α) (x : AIG.RefVec aig w) (curr : Nat) (acc : AIG.RefVec aig w) :=
+    if hc : curr < w then
+      let lhs := blastConst aig (w := w) (w - 1 - curr)
+      let res := AIG.RefVec.ite aig ⟨x.get curr hc, lhs, acc⟩
+      let aig := res.aig
+      let acc := res.vec
+      have := by apply AIG.LawfulVecOperator.le_size (f := AIG.RefVec.ite)
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Clz.lean]: This should follow the style of the remaining code with respect to cast:
```suggestion
      have := AIG.LawfulVecOperator.le_size (f := AIG.RefVec.ite) ..
```

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean [hunk 57]
```diff
@@ -0,0 +1,122 @@
...
+              simp only [BitVec.ofNat_sub_ofNat, Nat.zero_lt_succ, Nat.one_mod_two_pow,
+                Nat.add_one_sub_one]
+              rw [BitVec.toNat_eq, BitVec.toNat_ofNat, Nat.mod_eq_of_lt (a := curr + 1) (by omega),
+                Nat.mod_eq_of_lt (a := 1) (by omega),
+                show 2 ^ w - (curr + 1) + (2 ^ w - 1 + w) = (2 ^ w) + (2 ^ w + (w - curr - 1 - 1)) by omega]
+              simp [Nat.add_mod_left, Nat.sub_add_eq, Nat.sub_right_comm]
+            · next hx' =>
+              simp only [Nat.add_eq_zero, Nat.succ_ne_self, and_false, reduceIte,
+                Nat.add_one_sub_one] at hacc
+              simp [hacc, BitVec.clzAuxRec, show x.getLsbD (curr + 1) = false by rw [hx] at hx'; simp at hx'; exact hx']
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean]: Without looking at the proof states yet, this piece of code seems to contain quite a bit of direct acting on BitVec theory, is this:
- actually necessary here or can it be simplified?
- if it's not necessary can it be pulled out somehow? I would like to avoid having notable parts of BitVec theory directly within the AIG/bitblasting framework

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Clz.lean (hunk 56 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Clz.lean]: addressed

File: src/Init/Data/BitVec/Basic.lean (hunk 55 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Basic.lean]: addressed

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean (hunk 57 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean]: I extracted `BitVec.ofNat_sub_ofNat_of_le`, but could not simplify further.

**Comment by luisacicolini** [comment]
thanks @hargoniX for the review! To have a tail-recursive function, I reused `BitVec.clzAuxRec`: a lot of proofs are thus not needed anymore and the overall structure is simpler. Moreover, to avoid unfolding of `BitVec.clzAuxRec`, the proof of the correctness of the circuit now relies on two lemmas `BitVec.clzAuxRec_zero` and `BitVec.clzAuxRec_succ` that characterize the behavior of `BitVec.clzAuxRec`, analogously to `BitVec.mulRec`.
